US07560567B2
Preparation of N-[[3-chloro-5-(trifluoromethyl)-2-pyridinyl](cyano)methyl]acetamide
0.67 g of amino[3-chloro-5-(trifluoromethyl)-2-pyridinyl]acetonitrile hydrochloride (0.00245 mol) are dissolved in 15 mL of dichloromethane, 0.68 mL of triethylamine are added . After 10 min. at room temperature, 0.18 mL of acetyl chloride (0.00245 mol) are added, the reaction mixture is stirred overnight. The reaction is quenched with 20 mL of water.

reactant | amino[3-chloro-5-(trifluoromethyl)-2-pyridinyl]acetonitrile hydrochloride | 0.00245 mol, 0.67 g | Cl.NC(C#N)C1=NC=C(C=C1Cl)C(F)(F)F
reactant | triethylamine | 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.00245 mol, 0.18 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-[[3-chloro-5-(trifluoromethyl)-2-pyridinyl](cyano)methyl]acetamide | ClC=1C(=NC=C(C1)C(F)(F)F)C(NC(C)=O)C#N | C10H7ClF3N3O
